US07547710B2
To a solution of (2-isobutyl-6-methoxy-4-phenylquinolin-3-yl)methylamine (0.50 g, 1.57 mmol) in dichloromethane (10 ml) was added 1.0 M solution (3.9 ml) of boron tribromide in dichloromethane, and the mixture was stirred at room temperature for 20 hrs. To the reaction mixture were added ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (50 ml) and the mixture was stirred at room temperature for 17 hrs. The organic layer was separated, washed twice with saturated aqueous sodium hydrogen carbonate (20 ml) and once with saturated brine (10 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in tetrahydrofuran (10 ml). Di-tert-butyl dicarbonate (0.37 ml, 1.6 mmol) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated brine (20 ml). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained crude crystals were recrystallized from toluene-ethyl acetate to give tert-butyl (6-hydroxy-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate (0.53 g, yield 83%) as colorless crystals.

reactant | (2-isobutyl-6-methoxy-4-phenylquinolin-3-yl)methylamine | 1.57 mmol, 0.50 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CN)C1=CC=CC=C1)OC | C21H24N2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | Di-tert-butyl dicarbonate | 1.6 mmol, 0.37 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (6-hydroxy-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate | 0.53 g, yield 83% | OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H30N2O3
